US06861428B2
1) Preparation of 4-carboxy-2-[3-(3-chlorophenyl)propyl]-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 3-(3-chlorophenyl)-1-propanol methanesulfonate were reacted. Without purification, the reaction product was reacted further following the procedure of Example 1(7) to yield the title compound as a yellow crystalline powder (yield: 79.1%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | 3-(3-chlorophenyl)-1-propanol methanesulfonate | CS(=O)(=O)OCCCC1=CC(=CC=C1)Cl | C10H13ClO3S
product | 4-carboxy-2-[3-(3-chlorophenyl)propyl]-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 79.1% | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CCCC1=CC(=CC=C1)Cl)=O | C21H18ClFN2O3
